US09328106B2
To a solution of 1-(2-hydroxypropyl)cyclopropanol (2.0 g, 17.2 mmol) in DCM (35 mL) at 0° C. was added 2,6-lutidine (5 mL, 42.9 mmol) followed by trimethylsilyl trifluoromethanesulfonate (6 mL, 32.9 mmol). The reaction mixture was warmed to room temperature and stirred for 18 hr. Additional amounts of 2,6-lutidine (5 mL, 42.9 mmol) and trimethylsilyl trifluoromethanesulfonate (6 mL, 32.9 mmol) were added at 0° C. The mixture was stirred for 1 hr and quenched with saturated aqueous NaHCO3 (30 mL). The mixture was extracted with DCM (50 mL) and the organic layer was washed with aqueous 0.1 M HCl (2×15 mL) and passed through a phase separation cartridge. To this solution was added 2-methyl-4-nitro-pyrazole-3-carbaldehyde (1.40 g, 9.03 mmol) and the resulting solution was cooled to −78° C. and trimethylsilyl trifluoromethanesulfonate (4.11 mL, 22.6 mmol) added. The mixture was warmed to 0° C., stirred for 3 hr, cooled to −78° C. and additional trimethylsilyl trifluoromethanesulfonate (4.11 mL, 22.6 mmol) added. The mixture was warmed to 0° C. and stirred for 1 hr and solid sodium carbonate (2.5 g) added. The reaction mixture was stirred for 10 min before saturated aqueous NaHCO3 (100 mL) was added. The organic layer was washed with water (100 mL) and brine (100 mL), separated, dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 1-methyl-5-(5-methyl-6,8-dioxaspiro[2.5]octan-7-yl)-4-nitro-pyrazole as a colourless solid (1.0 g, 44% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.00 (s, 1H), 6.59 (s, 1H), 4.29-4.02 (m, 4H), 2.33-2.23 (m, 1H), 1.33 (d, J=6.2 Hz, 3H), 1.17-1.12 (m, 1H), 1.02-0.89 (m, 2H), 0.70-0.52 (m, 2H).

reactant | 1-(2-hydroxypropyl)cyclopropanol | 17.2 mmol, 2.0 g | OC(CC1(CC1)O)C | C6H12O2
reactant | 2,6-lutidine | 42.9 mmol, 5 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl trifluoromethanesulfonate | 32.9 mmol, 6 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 2,6-lutidine | 42.9 mmol, 5 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl trifluoromethanesulfonate | 32.9 mmol, 6 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 2-methyl-4-nitro-pyrazole-3-carbaldehyde | 9.03 mmol, 1.40 g | CN1N=CC(=C1C=O)[N+](=O)[O-] | C5H5N3O3
reactant | trimethylsilyl trifluoromethanesulfonate | 22.6 mmol, 4.11 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | trimethylsilyl trifluoromethanesulfonate | 22.6 mmol, 4.11 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium carbonate | 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-5-(5-methyl-6,8-dioxaspiro[2.5]octan-7-yl)-4-nitro-pyrazole | CN1N=CC(=C1C1OC(CC2(CC2)O1)C)[N+](=O)[O-] | C11H15N3O4
